US05969151
e) 5-Methoxy-2,3-dihydrobenzofuran-6-al
To a solution of 6-bromo-5-methoxy-2,3-dihydrobenzofuran (9.20 g, 40.35 mmol) in THF (50 mL) was dropwise added n-Butyl lithium (24.00 mL, 38.40 mmol) at -78° C. After stirring for 30 min, DMF (5.00 ml, 60.53 mmol) was added and the mixture was allowed to stir at room temperature for 2 h. The reaction was quenched with water and extracted with ethyl acetate (3×150 mL). The combined organic extracts were dried (Na2SO4) and the solvent was removed under reduced pressure. Flash chromatography (1:1 ether/hexane) of the residue afforded 5.42 g (76%) of the title compound as a yellow solid: 1H NMR (250 MHz, CDCl3) d 10.32 (s, 1H), 6.90 (s, 1H), 6.82 (s, 1H), 4.57 (t, 2H), 3.91 (s, 3H), 3.25 (t, 2H).

reactant | 6-bromo-5-methoxy-2,3-dihydrobenzofuran | 40.35 mmol, 9.20 g | BrC1=CC2=C(CCO2)C=C1OC | C9H9BrO2
reactant | n-Butyl lithium | 38.40 mmol, 24.00 mL | C(CCC)[Li]
reactant | DMF | 60.53 mmol, 5.00 ml | CN(C)C=O | C3H7NO
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-Methoxy-2,3-dihydrobenzofuran-6-al | 5.42 g, 76% | COC=1C(=CC2=C(CCO2)C1)C=O | C10H10O3
